US08431575B2
To a stirred suspension of 1-benzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester hydrochloride salt (25 g) in EtOAc (500 mL) was added saturated sodium bicarbonate solution (200 mL) and continued stirring for 2 h. The organic layer was separated, dried over Na2SO4, filtered and concentrated to provide ethyl 1-benzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester (22.00 g). To a solution of ethyl 1-benzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester (22 g, 84.18 mmol) in EtOAc (75 mL) was added (Boc)2O (20.21 g, 92.59 mmol) followed by 10% Pd—C (2.4 g) and the resultant reaction mixture was subjected to hydrogenation at 50 psi of hydrogen for 14 h. The catalyst was filtered by passing through a pad of celite, washed the celite pad with EtOAc (200 mL) and the combined filtrate was concentrated. The residue was purified by flash silica gel column chromatography by eluting with 0.5% ethyl acetate in hexanes to provide ethyl 3-oxo-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (34 g).

reactant | 1-benzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester hydrochloride salt | 25 g | Cl.C(C)OC(=O)C1C(CN(CC1)CC1=CC=CC=C1)=O
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | ethyl 1-benzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester | 22.00 g | C(C)OC(=O)C1C(C(N(CC1)CC1=CC=CC=C1)CC)=O | C17H23NO3
